* D:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-2\ltspice\models\standard\hold\transient\standard_hold.asc
M§PU_QNEG VDD Q QNEG VDD EECMOSP l={l_pmos_q_neg} w={w_pmos_q_neg}
M§PU_Q VDD QNEG Q VDD EECMOSP l={l_pmos_q} w={w_pmos_q}
M§PD_QNEG QNEG Q 0 0 EECMOSN l={l_nmos_q_neg} w={w_nmos_q_neg}
M§PD_Q Q QNEG 0 0 EECMOSN l={l_nmos_q} w={w_nmos_q}
M§AX_QNEG BLNEG WL QNEG 0 EECMOSN l={l_ax} w={w_ax}
M§AX_Q Q WL BL 0 EECMOSN l={l_ax} w={w_ax}
Vdd VDD 0 {vdd}
Vbl BL 0 {vbl}
Vblneg BLNEG 0 {vblneg}
Vwl WL 0 {vwl}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
.PARAM l_ax=0.12u  ; Batch instruction
.PARAM w_ax=0.13u  ; Batch instruction
.PARAM l_pmos_q=0.12u  ; Batch instruction
.PARAM w_pmos_q=0.12u  ; Batch instruction
.PARAM l_nmos_q=0.12u  ; Batch instruction
.PARAM w_nmos_q=0.48u  ; Batch instruction
.PARAM l_pmos_q_neg=0.12u  ; Batch instruction
.PARAM w_pmos_q_neg=0.12u  ; Batch instruction
.PARAM l_nmos_q_neg=0.12u  ; Batch instruction
.PARAM w_nmos_q_neg=0.48u  ; Batch instruction
.PARAM vdd=1  ; Batch instruction
.PARAM vwl=0  ; Batch instruction
.PARAM vbl=PULSE(0 1 100p 10p 10p 490p 1n)  ; Batch instruction
.PARAM vblneg=PULSE(1 0 100p 10p 10p 490p 1n)  ; Batch instruction
.inc ../../../../../ltspice/utils/utils-montecarlo-experiments/RIT_Models_For_LTSPICE.txt
.tran 150n
.backanno
.end
